US07091214B2
8-Bromo-2-ethyl-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine and benzeneboronic acid were coupled according to the general procedure described in Part J of Example 1. Chromatography on silica gel (5%–7% methanol in CH2Cl2 gradient) afforded 2-ethyl-1-isobutyl-8-phenyl-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, m.p. 233–235° C.

reactant | 8-Bromo-2-ethyl-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CC(C)C)CC | C16H19BrN4
reactant | benzeneboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-ethyl-1-isobutyl-8-phenyl-1H-imidazo[4,5-c]quinolin-4-amine | C(C)C=1N(C2=C(C(=NC=3C=CC(=CC23)C2=CC=CC=C2)N)N1)CC(C)C | C22H24N4
